US05780472
1-[(2-methoxypyridin-3-yl)aminocarbonyl]-4-phenylpiperazine
Phenyl-N-(2-methoxypyridin-3-yl)carbamate and 1-phenylpiperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-(2-methoxypyridin-3-yl)carbamate | C1(=CC=CC=C1)OC(NC=1C(=NC=CC1)OC)=O | C13H12N2O3
reactant | 1-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
product | 1-[(2-methoxypyridin-3-yl)aminocarbonyl]-4-phenylpiperazine | yield: 88% | COC1=NC=CC=C1NC(=O)N1CCN(CC1)C1=CC=CC=C1 | C17H20N4O2
